US08609675B2
2-phenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (2.38 mmol, 675 mg), K3PO4 (5.96 mmol, 1264 mg), and PdCl2(dppf).CH2Cl2 (0.20 mmol, 162 mg) was added to a solution of 5-chloro-3-iodo-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-10a, 1.98 mmol, 1101 mg) (prepared as described in Step a of Example 10) in dioxane (18 mL) and H2O (3 mL). The resulting solution was stirred at 70° C. under argon overnight. The mixture was diluted with H2O and then extracted with ethyl acetate (x2). The combined organic layers were washed with brine and dried with Na2SO4. Evaporation and purification by column chromatography afforded 5-chloro-3-(6-phenylpyridin-3-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-11a): LCMS tR=3.36 Min (5 min run, UV) Mass calculated for, M+581.2, observed LC/MS m/z 582.2 (M+H).

reactant | 2-phenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 2.38 mmol, 675 mg | C1(=CC=CC=C1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H20BNO2
reactant | K3PO4 | 5.96 mmol, 1264 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.20 mmol, 162 mg | C(Cl)Cl | CH2Cl2
reactant | 5-chloro-3-iodo-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 1.98 mmol, 1101 mg | ClC1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2I | C18H32ClIN4O2Si2
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-chloro-3-(6-phenylpyridin-3-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | ClC1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2C=2C=NC(=CC2)C2=CC=CC=C2 | C29H40ClN5O2Si2
